US07109229B2
(b) 1-Methyl-4-methoxyl-7-bromoindole
To a suspension of sodium hydride (60%, 0.23 g, 5.75 mmol) in DMF (18 mL) was added a solution of 4-methoxyl-7-bromoindole (1.1 g, 4.87 mmol) in DMF (2 mL). After 1 h at room temperature, the mixture was treated with methyl iodide (0.45 mL, 7.23 mmol) with cooling in an ice-water bath. The reaction mixture was allowed to warm up room temperature and stirred overnight. The reaction was quenched with water, extracted with ethyl acetate and the extract washed with water and brine, and dried (sodium sulfate). Evaporation of solvent gave a crude product, which was used without further purification. 1H NMR (400 MHz, CDCl3) 3.92(σ,3H), 4.13 (s, 3H), 6.35 (d, J=8.21 Hz, 1H), 6.55 (d, J=3.13 Hz, 1H), 6.89 (d, J=3.52 Hz, 1H), 7.22 (d, J=8.21 Hz, 1H).

reactant | sodium hydride | 5.75 mmol, 0.23 g | [H-].[Na+]
reactant | 4-methoxyl-7-bromoindole | 4.87 mmol, 1.1 g | O(C)C1=C2C=CNC2=C(C=C1)Br | C9H8BrNO
reactant | methyl iodide | 7.23 mmol, 0.45 mL | CI | CH3I
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-Methyl-4-methoxyl-7-bromoindole | CN1C=CC2=C(C=CC(=C12)Br)OC | C10H10BrNO
